US06458771B1
Synthesis of 1-(4-Amino-2-butenyl)-1H-imidazo[4,5-b]pyridine
A solution of 1-[(E)-4-phthalimido-2-butenyl]-1H-imidazo[4,5-b]pyridine (2.19 g, 6.87 mmol) in ethanol (100 mL) at room temperature was treated with hydrazine monohydrate (3.33 mL, 68.7 mmol). After 10 min., the reaction mixture was warmed to 60° C. for 2 h, allowed to cool to 25° C, and recooled to 0° C. in an ice bath. The resulting slurry was filtered, and the filtrate was concentrated in vacuo. Purification by flash chromatography (6% NH4OH/ethanol) afforded 0.92 g of the title compound; mass (CI) m/z=211 (M+H).

reactant | 1-[(E)-4-phthalimido-2-butenyl]-1H-imidazo[4,5-b]pyridine | 6.87 mmol, 2.19 g | C1(C=2C(C(N1C/C=C/CN1C=NC3=NC=CC=C31)=O)=CC=CC2)=O | C18H14N4O2
reactant | hydrazine monohydrate | 68.7 mmol, 3.33 mL | O.NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(4-Amino-2-butenyl)-1H-imidazo[4,5-b]pyridine | 0.92 g | NCC=CCN1C=NC2=NC=CC=C21 | C10H12N4
